US08349860B2
A suspension of 1-(2-fluoro-4-nitrophenyl)-1H-pyrazole (1.80 g, 8.70 mmol) and Pd—C (10%, 0.200 g) in MeOH (20 mL) (containing 10 drops of 6N HCl) was hydrogenated under balloon H2 overnight. The mixture was filtered through celite. The filtrate was concentrated in vacuo. The residue was dried on vacuum to give 3-fluoro-4-(1H-pyrazol-1-yl)benzenamine as a solid (1.55 g). MS 178.3 (M+H)

reactant | 1-(2-fluoro-4-nitrophenyl)-1H-pyrazole | 8.70 mmol, 1.80 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=CC=C1 | C9H6FN3O2
catalyst | MeOH | 6N, 20 mL | CO | CH4O
catalyst | Pd—C | 0.200 g | [Pd] | Pd
product | 3-fluoro-4-(1H-pyrazol-1-yl)benzenamine | 1.55 g | FC=1C=C(C=CC1N1N=CC=C1)N | C9H8FN3
